US09029388B2
E) 4-(5-Methyl-9H-imidazo[1′,2′:1,2]imidazo[4,5-b]pyridin-9-yl)phenol
A mixture of 9-[4-(benzyloxy)phenyl]-5-methyl-9H-imidazo[1′,2′:1,2]imidazo[4,5-b]pyridine (1.35 g), 10% palladium on carbon (containing water (50%), 0.675 g), THF (50 ml) and methanol (50 ml) was stirred under a hydrogen atmosphere at room temperature for 1 hr. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/THF) and recrystallized from hexane/THF to give the title compound (0.950 g).

reactant | 9-[4-(benzyloxy)phenyl]-5-methyl-9H-imidazo[1′,2′:1,2]imidazo[4,5-b]pyridine | 1.35 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C=2N(C=3C1=NC=CC3C)C=CN2 | C22H18N4O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 0.675 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | 4-(5-Methyl-9H-imidazo[1′,2′:1,2]imidazo[4,5-b]pyridin-9-yl)phenol | 0.950 g | CC1=C2C(=NC=C1)N(C=1N2C=CN1)C1=CC=C(C=C1)O | C15H12N4O
